US06716851B2
4-(5-Chloro-2-methoxyanilino)-2-(2-pyrazinyl)-6-trifluoromethylpyrimidine
The title compound was prepared from 4-chloro-2-(2-pyrazinyl)-6-trifluoromethylpyrimidine (30 mg, 0.115 mmol) and 5-chloro-2-methoxyaniline (27 mg, 0.173 mmol) similar to Example 185 and was isolated as a solid (10 mg, 23% yield). 1H NMR (CDCl3): 9.72 (d, J=1.2 Hz, 1H), 8.82 (t, J=1.8 Hz, 1H), 8.72 (d, J=2.4 Hz, 1H), 8.23 (brs, 1H), 7.71 (brs, 1H), 7.15 (dd, J=8.4, 2.4 Hz, 1H), 7.04 (s, 1H), 6.88 (d, J=8.4 Hz, 1H), 3.90 (s, 3H).

reactant | 4-chloro-2-(2-pyrazinyl)-6-trifluoromethylpyrimidine | 0.115 mmol, 30 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C1=NC=CN=C1 | C9H4ClF3N4
reactant | 5-chloro-2-methoxyaniline | 0.173 mmol, 27 mg | ClC=1C=CC(=C(N)C1)OC | C7H8ClNO
product | 4-(5-Chloro-2-methoxyanilino)-2-(2-pyrazinyl)-6-trifluoromethylpyrimidine | ClC=1C=CC(=C(NC2=NC(=NC(=C2)C(F)(F)F)C2=NC=CN=C2)C1)OC | C16H11ClF3N5O
